US05502054
Under a nitrogen atmosphere, a stirred solution of 215.0 grams (0.82 mole) of triphenylphosphine and 115 mL (1.64 moles) of dibromomethane in 600 mL of toluene was heated at reflux for about eight hours. After this time a solid was collected by filtration. The filtrate was again heated to reflux where it stirred for an additional eight hours. The mixture was cooled and additional solid was collected by filtration. The two solids were combined, yielding about 280 grams of bromomethyl triphenylphosphonium bromide.

reactant | triphenylphosphine | 0.82 mole, 215.0 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dibromomethane | 1.64 moles, 115 mL | BrCBr | CH2Br2
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | bromomethyl triphenylphosphonium bromide | about 280 grams | [Br-].BrC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C19H17BrP.BrH/c20-16-21(17-10-4-1-5-11-17,18-12-6-2-7-13-18)19-14-8-3-9-15-19;/h1-15H,16H2;1H/q+1;/p-1
